US09145392B2
2-(4-Amino-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-5-yl)-benzonitrile (“18”)
The title compound was prepared in an analogous manner as 5-(4-Fluoro-phenyl)-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-4-ylamine using 2-cyanophenylboronic acid instead of 4-fluorophenylboronic acid. LC-MS: (M+1=522, obsd.=522).

reactant | 5-(4-Fluoro-phenyl)-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-4-ylamine | FC1=CC=C(C=C1)C=1C(=NC=NC1N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)C)N | C26H23F5N6
reactant | 2-cyanophenylboronic acid | C(#N)C1=C(C=CC=C1)B(O)O | C7H6BNO2
product | 2-(4-Amino-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-5-yl)-benzonitrile | NC1=NC=NC(=C1C1=C(C#N)C=CC=C1)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)C | C27H23F4N7
